US04223132
A mixture of 3-phenylacetamido-1-(α-carbobenzoxy-p-hydroxybenzyl) azetidin-2-one (15 mg), methylene chloride (0.5 ml), aluminum chloride (12 mg) and anisole (0.2 ml) is kept at -20° C. for 8 hours. The reaction mixture is diluted with ethyl acetate, washed with dilute hydrochloric acid and water, dried, and concentrated in vacuo. Crystallizing the residue from a mixture of ethyl acetate and ether gives 3-phenylacetamido-1-(α-carboxy-p-hydroxybenzyl)azetidin-2-one (9 mg) melting at 134°-141° C. Yield: 75%.

reactant | 3-phenylacetamido-1-(α-carbobenzoxy-p-hydroxybenzyl) azetidin-2-one | 15 mg | C1(=CC=CC=C1)CC(=O)NC1C(N(C1)C(C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1)=O | C26H24N2O5
reactant | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
reactant | aluminum chloride | 12 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 0.2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-phenylacetamido-1-(α-carboxy-p-hydroxybenzyl)azetidin-2-one | 9 mg, Yield: 75% | C1(=CC=CC=C1)CC(=O)NC1C(N(C1)C(C1=CC=C(C=C1)O)C(=O)O)=O | C19H18N2O5
